US08729112B2
4-(Bromomethyl)-3-chloro-4-methyloxazolidin-2-one
A solution of 4-(bromomethyl)-4-methyloxazolidin-2-one (1.33 g, 6.86 mmol) in MeOH (10 ml) was cooled to 0° C. and tert-butylhypochlorite (1.0 ml, 8.4 mmol) as added dropwise. The solution was stirred for 30 min, concentrated in vacuo, and the residue purified by flash chromatography (20% to 60% ethyl acetate in hexanes) to afford the title compound as a white solid (960 mg, 4.20 mmol, 61%). 1H NMR (CDCl3, 400 MHz) δ 1.57 (s, 3H), 3.45 (d, J=10.4 Hz, 1H), 3.60 (d, J=10.8 Hz, 1H), 4.20 (d, J=8.8 Hz, 1H), 4.51 (d, J=8.8 Hz, 1H). LRMS (ESI/APCI): 228 [M+H]+.

reactant | 4-(bromomethyl)-4-methyloxazolidin-2-one | 6.86 mmol, 1.33 g | BrCC1(NC(OC1)=O)C | C5H8BrNO2
reactant | tert-butylhypochlorite | 8.4 mmol, 1.0 ml | C(C)(C)(C)OCl | C4H9ClO
solvent | MeOH | 10 ml | CO | CH4O
product | 4-(Bromomethyl)-3-chloro-4-methyloxazolidin-2-one | 4.20 mmol, 960 mg, 61% | BrCC1(N(C(OC1)=O)Cl)C | C5H7BrClNO2
